US04490374
3,4-Dihydro-5,6-dimethoxy-4-methyl-2(1H)quinazolinone
To a partial solution of 5,6-dimethoxy-2(1H)quinazolinone (10.0 g, 48.5 mM) in dry tetrahydrofuran (1100 ml) under nitrogen, is added at 0° C. over 20 minutes, an excess of methyl magnesium bromide in ether (62.60 ml of a 3.1M solution in ether, 194.06 mM). The reaction mixture is then removed from the cooling bath, allowed to reach room temperature and is stirred at room temperature for 16 hours. Additional methyl magnesium bromide is added (15.65 ml of a 3.1M solution in ether; 48.52 mM) and the reaction mixture is heated at reflux for 2 hours, cooled in an ice-water bath and an aqueous solution of NH4Cl (100 ml of saturated NH4Cl and 100 ml H2O) is added with stirring. After the addition is complete, 10% aqueous HCl is added until a pH of ~6.0 is reached. The layers are separated and the aqueous layer is extracted with CHCl3 (3× 250 ml). The CHCl3 extract is combined with the previously separated tetrahydrofuran layer, and the combined organic layers are washed with a saturated aqueous solution of NaCl (200 ml) and dried (Na2SO4). Filtration followed by concentration to ~250 ml affords an off-white precipitate which is filtered and recrystallized from isopropanol (200 ml) to give the product as a colorless solid; yield 9.7 g (87.8%), m.p. 210°-212° C.

reactant | 5,6-dimethoxy-2(1H)quinazolinone | 48.5 mM, 10.0 g | COC1=C2C=NC(NC2=CC=C1OC)=O | C10H10N2O3
reactant | methyl magnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | 1100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3,4-Dihydro-5,6-dimethoxy-4-methyl-2(1H)quinazolinone | COC1=C2C(NC(NC2=CC=C1OC)=O)C | C11H14N2O3
